US04371536
400 mg of 7-nitro-1,2,3,4-tetrahydro-β-carbolin-3-carboxylic acid ethyl ester is dissolved in 40 ml of hot xylene and, after the addition of 400 mg of palladium-carbon (10%), is refluxed for 30 hours. The catalyst is filtered off with suction, and washed out well with warm xylene. The filtrate is concentrated in vacuo, and the residue chromatographed on silica gel with chloroform-ethanol (10:2). 260 mg of 7-nitro-β-carbolin-3-carboxylic acid ethyl ester of melting point 321° C. (decomposition) is obtained.

reactant | 7-nitro-1,2,3,4-tetrahydro-β-carbolin-3-carboxylic acid ethyl ester | 400 mg | C(C)OC(=O)C1NCC=2NC3=CC(=CC=C3C2C1)[N+](=O)[O-] | C14H15N3O4
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium-carbon | 400 mg | [C].[Pd]
product | 7-nitro-β-carbolin-3-carboxylic acid ethyl ester | 260 mg | C(C)OC(=O)C=1N=CC=2NC3=CC(=CC=C3C2C1)[N+](=O)[O-] | C14H11N3O4
